US06579879B2
n-Butyl lithium (2.5 M in hexane, 6.6 mmol, 2.6 mL) was added dropwise over 15 minutes to a solution of 5-chloro-3-methyl benzofuran (6.0 mmol, 1 g) in THF (8 mL) cooled to −78° C. To this was added DMF (12 mmol, 0.6 mL) and stirred for one hour. The reaction mixture was allowed to come to room temperature overnight and then quenched with EtOAc (20 mL) and H2O (10 mL). The organic portion was collected, dried, filtered and the filtrate was evaporated to dryness to obtain 5-chloro-3-methyl benzofuran-2-carboxaldehyde (96%, 1.12 g), which-was carried on without further purification.

reactant | n-Butyl lithium | 6.6 mmol, 2.5 M, 2.6 mL | C(CCC)[Li]
reactant | 5-chloro-3-methyl benzofuran | 6.0 mmol, 1 g | ClC=1C=CC2=C(C(=CO2)C)C1 | C9H7ClO
reactant | DMF | 12 mmol, 0.6 mL | CN(C)C=O | C3H7NO
solvent | THF | 8 mL | C1CCOC1 | C4H8O
product | 5-chloro-3-methyl benzofuran-2-carboxaldehyde | 1.12 g, 96% | ClC=1C=CC2=C(C(=C(O2)C=O)C)C1 | C10H7ClO2
